US06525067B1
Propyl-carbamic acid 1-[2-(4-chloro-2,6-dimethyl-phenoxy)-3,6-dimethyl-pyridin-4-yl]-2,2,2-trifluoro-ethyl ester
A mixture of 1-[2-(4-chloro-2,6-dimethyl-phenoxy)-3,6-dimethyl-pyridin-4-yl]-2,2,2-trifluoro-ethanol (21 mg, 0.0589 mmol), propyl isocyanate (0.1 ml), dimethylaminopyridine (20 mg) in dichloromethane (2 ml) was heated at reflux for 6 hrs. The mixture was quenched with water and extracted with chloroform. The organic layer was separated, dried and concentrated to give 23 mg of yellow solid. The solid was purified by preparative thin layer chromatography (run in 20% ethyl acetate in hexane) to give the title compound as a white solid.

reactant | 1-[2-(4-chloro-2,6-dimethyl-phenoxy)-3,6-dimethyl-pyridin-4-yl]-2,2,2-trifluoro-ethanol | 0.0589 mmol, 21 mg | ClC1=CC(=C(OC2=NC(=CC(=C2C)C(C(F)(F)F)O)C)C(=C1)C)C | C17H17ClF3NO2
reactant | propyl isocyanate | 0.1 ml | C(CC)N=C=O | C4H7NO
reactant | dimethylaminopyridine | 20 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | Propyl-carbamic acid 1-[2-(4-chloro-2,6-dimethyl-phenoxy)-3,6-dimethyl-pyridin-4-yl]-2,2,2-trifluoro-ethyl ester | 23 mg | ClC1=CC(=C(OC2=NC(=CC(=C2C)C(C(F)(F)F)OC(NCCC)=O)C)C(=C1)C)C | C21H24ClF3N2O3
